2186-12-03 07:10:00 Physician Resident Progress Note
Chief Complaint: brain mass s/p resection, delerium
   24 Hour Events:
   PNA coverage now Cipro and Vanc, d/c'd cefepime. (was going to do
   nafcillin/cipro but pcn allergy) PEEP back down to 5. lasix d/c'd,
   started diamox/morphine/clonidine/ativan and d/c'd propofol. Overnight,
   bp would [**Month (only) 202**] to 90's w/ sleep, but when aroused back to 120-30's, and
   following directions, denied pain. temporarily held diuretics, gave 500
   cc fluid bolus, and was responsive.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2186-12-1**] 10:00 PM
   Vancomycin - [**2186-12-2**] 07:55 AM
   Ciprofloxacin - [**2186-12-2**] 12:29 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2186-12-2**] 12:03 PM
   Morphine Sulfate - [**2186-12-2**] 06:14 PM
   Lorazepam (Ativan) - [**2186-12-2**] 06:14 PM
   Heparin Sodium (Prophylaxis) - [**2186-12-2**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube, large vol mucus production
   Nutritional Support: Tube feeds
   Respiratory: Cough
   Psychiatric / Sleep: Delirious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-12-3**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 72 (64 - 101) bpm
   BP: 101/61(73) {83/46(56) - 176/100(126)} mmHg
   RR: 16 (10 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.5 kg (admission): 109 kg
   Height: 66 Inch
                  Total In:
                                                                  3,279 mL
                                                                    135 mL
   PO:
                  TF:
                                                                  1,382 mL
                                                                    135 mL
   IVF:
                                                                  1,628 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    420 mL
   Urine:
                                                                  2,230 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,049 mL
                                                                   -285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (282 - 716) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 92
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/45/157/29/6
   Ve: 7.8 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Sedated, Tone: Normal
   Labs / Radiology
   324 K/uL
   9.0 g/dL
   137 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.7 mEq/L
   29 mg/dL
   104 mEq/L
   139 mEq/L
   27.4 %
   7.7 K/uL
        [image002.jpg]
                             [**2186-11-30**]  09:31 PM
                             [**2186-11-30**]  10:09 PM
                             [**2186-12-1**]  02:18 AM
                             [**2186-12-1**]  05:36 AM
                             [**2186-12-1**]  09:50 AM
                             [**2186-12-1**]  09:01 PM
                             [**2186-12-2**]  02:58 AM
                             [**2186-12-2**]  03:20 AM
                             [**2186-12-2**]  07:28 AM
                             [**2186-12-3**]  02:07 AM
   WBC
   13.3
   5.8
   7.7
   Hct
   28.1
   26.7
   27.4
   Plt
   [**Telephone/Fax (3) 1954**]
   Cr
   1.2
   1.1
   1.0
   TCO2
   31
   31
   31
   32
   30
   32
   32
   Glucose
   149
   153
   169
   144
   137
   Other labs: PT / PTT / INR:12.7/22.2/1.1, CK / CKMB /
   Troponin-T:186/2/<0.01, Differential-Neuts:74.0 %, Lymph:20.7 %,
   Mono:4.1 %, Eos:1.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.4
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   r/t brain mass, s/p crani
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
    extub [**11-27**], unable to manage secretions, maintain airway, breathe
   effectively
   ASSESSMENT AND PLAN:  50 yo M, w/ pilocytic astrocytoma s/p resection
   and ventriculostomy.
   NEUROLOGIC: Minimize sedation, ventriculostomy d/c'd.
   Neuro checks Q4hrs
   Pain: controlled w/ fent prn.   Liquid oxycodone.
   CARDIOVASCULAR: Currently in sinus rhythm, receiving Diltiazem for rate
   control, HR and BP stable  .  Decrease clonidine.
   PULMONARY: Remains intubated, PEEP still 10. ?  trach next week.
   GI / ABD: Stable
   NUTRITION: TF @goal (Replete with fiber)  Begin Reglan for high
   residuals
   RENAL: Adequate urine output, Cr stable 1.1, on diamox for metabolic
   alkalosis
   HEMATOLOGY: Stable
   ENDOCRINE: RISS
   ID: Afebrile, WBC improved, cont Vanc, Cipro for PNA tx, follow up
   cultures
   LINES/TUBES/DRAINS: ETT, Foley, Aline, OGT
   WOUNDS: old ventriculostomy drain site  C/D/I
   IMAGING: none
   FLUIDS: None
   CONSULTS: Neurosurgery
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - SQH
   STRESS ULCER - Famotidine
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2186-11-26**] 02:23 AM
   Multi Lumen - [**2186-11-26**] 09:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-12-06 08:07:00 Physician Resident Progress Note
Chief Complaint: Pilocytic astrocytoma
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2186-12-5**] 04:21 PM
   Placed on propofol drip, 100 mcg fentanyl IVP. Paralyzed with
   vecuronium 10 mg. Placed on AC for tracheostomy at bedside
 BRONCHOSCOPY - At [**2186-12-5**] 04:40 PM
   CT head improved, no acute process. Trached.  urine studies show
   concentrating urine and no eos. kept NPO, Con't NGT output. Had
   difficulty normalizing gas on multiple trials of different vent
   settings, kept tiring and having very low lung vol, and alkalemic gas
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-12-6**] 12:00 AM
   Cefazolin - [**2186-12-6**] 04:00 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2186-12-5**] 08:26 AM
   Vecuronium - [**2186-12-5**] 04:16 PM
   Fentanyl - [**2186-12-5**] 04:34 PM
   Famotidine (Pepcid) - [**2186-12-6**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2186-12-6**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: Cough
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-12-6**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 80 (60 - 86) bpm
   BP: 106/80(94) {94/58(70) - 172/101(126)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.2 kg (admission): 109 kg
   Height: 66 Inch
             Total In:
                                                                  3,691 mL
                                                                  1,048 mL
   PO:
             TF:
   IVF:
                                                                  3,691 mL
                                                                  1,048 mL
   Blood products:
   Total out:
                                                                  1,955 mL
                                                                    820 mL
   Urine:
                                                                  1,155 mL
                                                                    720 mL
   NG:
                                                                    800 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,736 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (0 - 600) mL
   Vt (Spontaneous): 278 (278 - 643) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.53/29/167/24/3
   Ve: 13 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, improved
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   344 K/uL
   8.2 g/dL
   126 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   15 mg/dL
   103 mEq/L
   136 mEq/L
   24.1 %
   9.4 K/uL
        [image002.jpg]
                            [**2186-12-4**]  02:20 AM
                            [**2186-12-4**]  02:45 AM
                            [**2186-12-4**]  03:15 PM
                            [**2186-12-4**]  05:19 PM
                            [**2186-12-5**]  01:47 AM
                            [**2186-12-5**]  03:40 PM
                            [**2186-12-6**]  02:07 AM
                            [**2186-12-6**]  02:27 AM
                            [**2186-12-6**]  03:56 AM
                            [**2186-12-6**]  06:11 AM
   WBC
   9.6
   9.8
   9.4
   Hct
   27.5
   26.4
   24.1
   Plt
   367
   375
   344
   Cr
   1.2
   1.2
   1.0
   TropT
   <0.01
   TCO2
   28
   25
   28
   27
   28
   25
   25
   Glucose
   103
   143
   126
   Other labs: PT / PTT / INR:13.6/26.3/1.2, CK / CKMB /
   Troponin-T:67/2/<0.01, Differential-Neuts:74.0 %, Lymph:20.7 %,
   Mono:4.1 %, Eos:1.0 %, Lactic Acid:2.1 mmol/L, Ca++:7.7 mg/dL, Mg++:2.1
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   r/t brain mass, s/p crani
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
    extub [**11-27**], unable to manage secretions, maintain airway, breathe
   effectively
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   paralytic ileus, loops of dilated small bowel on KUB [**12-4**]
 ATRIAL FIBRILLATION (AFIB)
   converted back into a fib [**12-4**] 1500, back on dilt drip, bolus dosing
   given
   ASSESSMENT AND PLAN:  50 yo M, w/ pilocytic astrocytoma s/p resection
   and ventriculostomy.
   NEUROLOGIC: Minimize sedation, ventriculostomy d/c'd.
   Neuro checks Q4hrs
   Pain: fentanyl prn   add Tylenol around the clock.
   CARDIOVASCULAR: Currently in sinus rhythm, receiving Diltiazem for rate
   control, HR and BP stable
   PULMONARY: successful trach, now improved on PSV, gas normal.
   GI / ABD: con't reglan, NPO, abd distension con't
   NUTRITION: NPO
   RENAL: Adequate urine output ~ 30/h overnight, Cr now improved from
   1.2  to 1.0
   HEMATOLOGY: Stable
   ENDOCRINE: RISS
   ID: Afebrile, WBC improved, cont Kefzol, Cipro for PNA tx, follow up
   cultures
   LINES/TUBES/DRAINS: trach, Foley, Aline, NGT
   WOUNDS: old ventriculostomy drain site  C/D/I
   IMAGING: none
   FLUIDS: None
   CONSULTS: Neurosurgery
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - SQH
   STRESS ULCER - Famotidine
   VAP BUNDLE - Yes
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion,
   Blood sugar well controlled
   Lines:
   Arterial Line - [**2186-11-26**] 02:23 AM
   Multi Lumen - [**2186-11-26**] 09:45 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU